US08664257B2
1-(2-Fluoro-phenyl)-5-(2-hydroxy-2,3,3-trimethyl-butoxy)-1H-pyrazole-3-carboxylic acid
610 mg (1.9 mmol) of 5-(3,3-dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid were dissolved in 20 ml of dry THF under argon and cooled to 0° C. 1.4 ml of a 3 M solution of methylmagnesium bromide in diethyl ether (4.2 mmol) were added over 10 min. The mixture was allowed to reach room temperature overnight and then diluted with 50 ml of water and 30 ml of EA. After phase separation, the aqueous phase was adjusted to pH=3 by addition of 1 M hydrochloric acid. The precipitate which formed was dissolved by addition of 40 ml of DCM, the organic phase was separated, dried over sodium sulfate and evaporated. 390 mg (61%) of the title compound were obtained.

reactant | 5-(3,3-dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid | 1.9 mmol, 610 mg | CC(C(COC1=CC(=NN1C1=C(C=CC=C1)F)C(=O)O)=O)(C)C | C16H17FN2O4
reactant | methylmagnesium bromide | C[Mg]Br
reactant | diethyl ether | 4.2 mmol | C(C)OCC | C4H10O
reactant | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | EA | 30 ml | CC(OCC)=O | C4H8O2
product | 1-(2-Fluoro-phenyl)-5-(2-hydroxy-2,3,3-trimethyl-butoxy)-1H-pyrazole-3-carboxylic acid | 390 mg, 61% | FC1=C(C=CC=C1)N1N=C(C=C1OCC(C(C)(C)C)(C)O)C(=O)O | C17H21FN2O4
